US07585885B2
5-Isopropoxymethyl-N-methyl-N-propyl-isophthalamic acid ethyl ester
Mix dichloromethane (1.8 mL), pyridine (56 mL, 0.7 mmol), and trifluomethanesulfonic anhydride (97 μL, 0.58 mmol) to a flask at −35 to 45° C. Add premixed 5-hydroxymethyl-N-methyl-N-propyl-isophthalamic acid ethyl ester (65 mg, 0.23 mmol) in dichloromethane (4 mL) dropwise at 40° C. Stir for 5 min and quench with isopropyl alcohol (2 mL). Dilute the reaction mixture with dichloromethane (10 mL), wash with water (2×10 mL), and concentrate to give the title compound and used directly in the next step without further purification.

reactant | pyridine | 0.7 mmol, 56 mL | N1=CC=CC=C1 | C5H5N
reactant | 5-hydroxymethyl-N-methyl-N-propyl-isophthalamic acid ethyl ester | 0.23 mmol, 65 mg | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)CO)=O | C15H21NO4
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.8 mL | ClCCl | CH2Cl2
product | 5-Isopropoxymethyl-N-methyl-N-propyl-isophthalamic acid ethyl ester | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)COC(C)C)=O | C18H27NO4
